US04159273
(a) 5,6,7,8-Tetrahydro-2-propionoxynaphthalene
To a stirred solution of 5,6,7,8-tetrahydro-2-hydroxy naphthalene (44.5 g) in dry pyridine (200 ml) was added propionic anhydride (45.6 g). The mixture was heated on a steam bath for 2 hours, left overnight, then poured into stirred 5N hydrochloric acid and extracted with chloroform. The chloroform extract was washed with N HCl, with water, dried (MgSO4), filtered and evaporated to leave the title product, (61 g) as a pale brown oil.

reactant | 5,6,7,8-tetrahydro-2-hydroxy naphthalene | 44.5 g | OC1=CC=2CCCCC2C=C1 | C10H12O
reactant | propionic anhydride | 45.6 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 5,6,7,8-Tetrahydro-2-propionoxynaphthalene | 61 g | C(CC)(=O)OC1=CC=2CCCCC2C=C1 | C13H16O2
